US07935815B2
Synthesis of tert-Butyl 2-{(2E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]prop-2-enoyl}hydrazinecarboxylate
DMF (52 mL) was added to the 6-Bromo-2-methoxy-3-(4-methyl-1H-imidazol-1-yl)pyridine (13.0 g, 48.5 mmol) and the tert-Butyl 2-acryloylhydrazinecarboxylate (9.9 g, 53.3 mmol) at room temperature under nitrogen atmosphere, And the mixture was stirred at 50° C. for 10 minutes. Tri(o-tolyl)phosphine (885 mg, 2.90 mmol), Palladium (II) acetate (327 mg, 1.45 mmol) and N,N-diisopropylethylamine (12.7 mL, 72.7 mmol) were added to the mixture, and the reaction mixture was stirred at 100° C. for 4 hours. The reaction mixture was cooled to room temperature and filtrated through Celite. The residue was washed twice with DMF (6 mL). Water (104 mL) was added dropwise to the filtrate at room temperature over 10 minutes. The mixture was stirred at room temperature for 15 hours. After the mixture was filtrated, the residue was washed with water/DMF=2:1 (30 mL) and MTBE (30 mL). The obtained solid was suspended in MTBE (50 mL) at room temperature for 2 hours, filtrated and dried under the reduced pressure to obtain the title compound (15.8 g, 87% yield).

reactant | 6-Bromo-2-methoxy-3-(4-methyl-1H-imidazol-1-yl)pyridine | 48.5 mmol, 13.0 g | BrC1=CC=C(C(=N1)OC)N1C=NC(=C1)C | C10H10BrN3O
reactant | tert-Butyl 2-acryloylhydrazinecarboxylate | 53.3 mmol, 9.9 g | C(C=C)(=O)NNC(=O)OC(C)(C)C | C8H14N2O3
reactant | N,N-diisopropylethylamine | 72.7 mmol, 12.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | Palladium (II) acetate | 1.45 mmol, 327 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Tri(o-tolyl)phosphine | 2.90 mmol, 885 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | DMF | 52 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-{(2E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]prop-2-enoyl}hydrazinecarboxylate | 15.8 g, 87% yield | COC1=C(C=CC(=N1)/C=C/C(=O)NNC(=O)OC(C)(C)C)N1C=NC(=C1)C | C18H23N5O4
